US08703951B2
To a suspension of NaH (0.63 g, 26.5 mmol) in dry DMF (150 ml) was added portionwise dimethyl 3-methyl-6,11-dihydro-5H-indolizino[6,7-b]indole-1,2-dicarboxylate (6 g, 17.7 mmol) at 0° C. to 5° C. After being stirred for 15 min, iodomethane (2.5 g, 17.7 mmol) was added and the reaction mixture and was stirred for additional 1 h in an ice bath. After being stirred at room temperature for 9 h, methanol was added into the reaction mixture and then evaporated to dryness in vacuo. The residue was recrystallized from MeOH to give dimethyl 3,6-dimethyl-6,11-dihydro-5H-indolizino[6,7-b]indole-1,2-dicarboxylate, 5.8 g (94%); mp 240-241° C. 1H NMR (DMSO-d6) δ 2.45 (3H, s, Me), 3.73 (6H, s, COOMe and Me), 3.74 (3H, s, COOMe), 4.16 (2H, t, J=3.4 Hz, CH2), 5.27 (2H, t, J=3.4 Hz, CH2), 7.05-7.09 (1H, m, ArH), 7.17-7.21 (1H, m, ArH), 7.48 (1H, d, J=8.2 Hz, ArH), 7.53 (1H, d, J=7.8 Hz, ArH). Anal. Calcd for (C20H20N2O4): C, 68.17; H, 5.72; N, 7.95. Found: C, 67.79; H, 5.73; N, 7.84.

reactant | NaH | 26.5 mmol, 0.63 g | [H-].[Na+]
reactant | dimethyl 3-methyl-6,11-dihydro-5H-indolizino[6,7-b]indole-1,2-dicarboxylate | 17.7 mmol, 6 g | CC1=C(C(=C2CC3=C(NC=4C=CC=CC34)CN12)C(=O)OC)C(=O)OC | C19H18N2O4
reactant | iodomethane | 17.7 mmol, 2.5 g | IC | CH3I
reactant | methanol | CO | CH4O
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | dimethyl 3,6-dimethyl-6,11-dihydro-5H-indolizino[6,7-b]indole-1,2-dicarboxylate | CC1=C(C(=C2CC3=C(N(C=4C=CC=CC34)C)CN12)C(=O)OC)C(=O)OC | C20H20N2O4
